US07696223B2
a) 4-Cyano-2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (157 mg, 0.40 mmole), tris(dibenzylideneacetone)-dipalladium(0)(18 mg, 0.02 mmole), 1,1′-bis(diphenylphosphino)ferrocene (22 mg, 0.04 mmole), zinc cyanide (28 mg, 0.24 mmole) and zinc (3 mg, 0.05 mmole) in dimethylacetamide (0.8 ml) was stirred at 120° C. for 4.5 h before it was cooled to room temperature, partitioned between ethyl acetate and water, filtered. The filtrate washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of methanol and dichloromethane to give the title compound as a yellow solid (64 mg). MS: (+) m/z 344.26 (M+1), MS: (−) m/z 342.27 (M−1).

reactant | 4-bromo-2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.40 mmole, 157 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C2=CC=C(C=C2)F)O | C15H10BrFN2O3S
reactant | dimethylacetamide | 0.8 ml | CC(=O)N(C)C | C4H9NO
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.02 mmole, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.04 mmole, 22 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.24 mmole, 28 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.05 mmole, 3 mg | [Zn] | Zn
product | 4-Cyano-2-(4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 64 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#N)N=C(S2)C2=CC=C(C=C2)F)O | C16H10FN3O3S
